US04103257
Preparation of 7-amino-4-hydroxy-8-azaquinolone-2(Compound No. 8)
The procedure used was a modification of that by Lappin et al. [G. A. Lappin, Q. R. Petersen and C. E. Wheeler, J. Org. Chem. 15, 377 (1950)]. 2,6-Diaminopyridine (10.9 g, 0.1 mole) and 16.0 g (0.1 mole) of diethyl malonate in 250 ml of diphenyl ether were heated with stirring under an air condenser at 170°-180° for 1 hr. Then the temperature was slowly increased to 245°. The total heating time from room temperature to final temperature was 4.5 hr. Off-white solid began to separate soon after 180° was reached. The slurry was cooled, diluted with 100 ml of benzene, filtered, and the solid product washed several times with benzene; 17.7 g (100%) after drying. The experiment was also readily performed on a 0.4-mole scale.

reactant | 2,6-Diaminopyridine | 0.1 mole, 10.9 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | diethyl malonate | 0.1 mole, 16.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | diphenyl ether | 250 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 7-amino-4-hydroxy-8-azaquinolone | NC1=CC=C2C(=CC(NC2=N1)=O)O | C8H7N3O2
